US07002016B2
Methyl phenylglyoxylate (12.50 Kg, 76.1 mol, 1 eq) was added dropwise to a stirred mixture of piperidine (19.45 Kg, 228 mol, 3 eq) and methanol (5.0 L) for 3.5 hours to maintain the temperature at 45–55° C. The mixture was stirred at the same temperature for 0.5 hour and kept overnight at +4° C. The precipitated solid was filtered off, washed on the filter with cold methanol (5 L) and dried under reduced pressure to a constant weight to give 15.90 kg (96%) of 1-(phenylglyoxylyl)piperidine with 99.9% purity by GC.

reactant | Methyl phenylglyoxylate | 76.1 mol, 12.50 Kg, 1 eq | C1(=CC=CC=C1)C(C(=O)OC)=O | C9H8O3
reactant | piperidine | 228 mol, 19.45 Kg, 3 eq | N1CCCCC1 | C5H11N
solvent | methanol | 5.0 L | CO | CH4O
product | 1-(phenylglyoxylyl)piperidine | 15.90 kg, 96% | C1(=CC=CC=C1)C(C(=O)N1CCCCC1)=O | C13H15NO2
